US05624601
Preparation of (3,4-dichlorophenyl) trans-4-(4-(5-methoxypentyl)-4-silacyclohexyl)benzoate
The general procedure of Example 3 was repeated using 3,4-dichlorophenol and 4-(4-phenyl-4-(5-methoxypentyl)-4-silacyclohexyl)benzoic acid, thereby obtaining the intended product.

reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 4-(4-phenyl-4-(5-methoxypentyl)-4-silacyclohexyl)benzoic acid | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1=CC=C(C(=O)O)C=C1)CCCCCOC | C24H32O3Si
product | (3,4-dichlorophenyl) trans-4-(4-(5-methoxypentyl)-4-silacyclohexyl)benzoate | COCCCCC[Si@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OC2=CC(=C(C=C2)Cl)Cl)C=C1 | C24H30Cl2O3Si
